US06696574B2
5-Chloro-N-[(1S,2R)-3-(2,5-dihydro-1H-pyrrol-1-yl)-2-hydroxy-3-oxo-1-(phenylmethyl)propyl]-1H-indole-2-carboxamide (Ib)
A 5.00 g (0.0134 mmol) sample of (αR,βS)-β-[[(5-chloro-1H-indol-2-yl)carbonyl]amino]-α-hydroxy-benzenebutanoic acid (Ia) (prepared according to the methods disclosed in the aforementioned U.S. Pat. Nos. 6,107,329, 6,277,877, and 6,297,269) and 3-pyrroline (1.11 g, 0.015 mmol) (Aldrich Chemical Co., Milwaukee, Wis.) were slurried in 100 ml of tetrahydrofuran at a temperature of between 20° and 25° C. The mixture was treated with 0.6 g (0.33 equiv.) of 1-hydroxybenzotriazole hydrate (HOBT) and the mixture was cooled to between 0° and 5° C. N,N-diisopropylethylamine (2.08 ml, 2.1 equiv.) was added to the mixture over 15 minutes at 0° to 5° C. The mixture was then treated with 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (EDC) (2.78 g, 1.1 equiv.) at −10° to −6° C. The reaction was allowed to warm to about 20° C. and was stirred at ambient temperature for about 24 hours. The reaction mixture was treated with water (50 ml) and ethyl acetate (50 ml) to give a two-phase mixture. The layers were settled and the organic layer was separated and concentrated to furnish a solid by distillation under partial vacuum. A total of 5.1 g (92.7% yield) of the pure title product was isolated.

reactant | (αR,βS)-β-[[(5-chloro-1H-indol-2-yl)carbonyl]amino]-α-hydroxy-benzenebutanoic acid | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]([C@H](C(=O)O)O)CC1=CC=CC=C1 | C19H17ClN2O4
reactant | 3-pyrroline | 0.015 mmol, 1.11 g | N1CC=CC1 | C4H7N
reactant | 1-hydroxybenzotriazole hydrate | 0.6 g, 0.33 equiv. | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 2.08 ml, 2.1 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.78 g, 1.1 equiv. | Cl.CN(CCCN=C=NCC)C
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 5-Chloro-N-[(1S,2R)-3-(2,5-dihydro-1H-pyrrol-1-yl)-2-hydroxy-3-oxo-1-(phenylmethyl)propyl]-1H-indole-2-carboxamide | 5.1 g, 92.7% yield | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]([C@H](C(=O)N1CC=CC1)O)CC1=CC=CC=C1 | C23H22ClN3O3
